US07595339B2
3-Amino-pyrrolidine-1-carboxylic acid methyl ester
Add methyl chloroformate (460 μL, 560 mg, 6.0 mmol, 3.0 equiv) to a solution of 3-(tert-butoxycarbonylamino)pyrrolidine (TCI; 373 mg, 2.00 mmol, 1 equiv) and triethylamine (1.1 mL, 800 mg, 7.9 mmol, 3.9 equiv) in anhydr CH2Cl2 (4 mL). Vigorous gas evolution, a slight exotherm, and precipitation can occur. After stirring 30 min, rotary evaporate the reaction mixture (60° C.). Dissolve the resultant material in MeOH to quench any residual chloroformate and rotary evaporate the solution (60° C.). Add trifluoroacetic acid (5 mL) to this material causing gas evolution. Rotary evaporate the reaction solution (40° C.; azeotroping 2× with MeOH). Resultanting in a yellow oil then dissolve in MeOH (30 mL) and add hydroxide resin (Bio-Rad AG® 1-X8, 20-50 mesh; 9.3 g) to free-base the amine. Filter the mixture and evaporate the filtrate by rotary (40° C.; azeotroped 2× with CH2Cl2) to yield 914 mg (300%) of crude product as a light-brown oil. Mass spec indicates desired product is present. Absorb this oil to an SCX column (20 g) activated with 10% AcOH/MeOH. Push MeOH through the column to elute any non-amine material. Elute the product with 2.0 M NH3 in MeOH to yield 269 mg (93.2%) of 3-amino-pyrrolidine-1-carboxylic acid methyl ester as a yellow oil.

reactant | methyl chloroformate | 6.0 mmol, 460 μL, 560 mg, 3.0 equiv | ClC(=O)OC | C2H3ClO2
reactant | 3-(tert-butoxycarbonylamino)pyrrolidine | 2.00 mmol, 373 mg, 1 equiv | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | triethylamine | 7.9 mmol, 1.1 mL, 800 mg, 3.9 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-Amino-pyrrolidine-1-carboxylic acid methyl ester | COC(=O)N1CC(CC1)N | C6H12N2O2
